US08895544B2
1-Bromo-2-bromomethyl-5-fluoro-4-methoxy-benzene
Phosphorus tribromide (11.56 mL, 122.5 mmol) was added to a solution of (2-bromo-4-fluoro-5-methoxy-phenyl)-methanol (Preparation 33, 14.4 g, 61.26 mmol) in DCM (235 mL) at 0° C. The reaction was allowed to warm to room temperature and stirred at that temperature for 18 hours. The reaction mixture was cooled to 0° C. and quenched by slow addition of saturated sodium hydrogen carbonate aqueous solution until effervescence had ceased. The layers were separated and the aqueous layer was extracted with DCM (2×100 mL). The combined organic layers were dried over MgSO4 and concentrated in vacuo to give the title compound as a white solid (17.48 g) in a 96% yield.

reactant | Phosphorus tribromide | 122.5 mmol, 11.56 mL | P(Br)(Br)Br | Br3P
reactant | (2-bromo-4-fluoro-5-methoxy-phenyl)-methanol | 61.26 mmol, 14.4 g | BrC1=C(C=C(C(=C1)F)OC)CO | C8H8BrFO2
solvent | DCM | 235 mL | C(Cl)Cl | CH2Cl2
product | 1-Bromo-2-bromomethyl-5-fluoro-4-methoxy-benzene | 17.48 g, 96% yield | BrC1=C(C=C(C(=C1)F)OC)CBr | C8H7Br2FO
